US20010009915A1
Step a: Methyl 3-(6-{[(4-chlorophenyl)sulphonyl]amino}-3-formyl-5,6,7,8-tetrahydro-1-naphthyl)propanoate
2.5 g of a solution of osmium tetroxide (2.5% by weight) in 2-methyl-2-propanol, and then 20 g of sodium periodate, are added at ambient temperature to a solution of 10 g (23 mmol) of methyl 3-(6-{[(4-chlorophenyl)sulphonyl]amino}-3-vinyl-5,6,7,8-tetrahydro-1-naphthyl)propanoate, described in Application EP 864 561, in a mixture of 100 ml of dioxan and 50 ml of water. After stirring for one night at ambient temperature, the solution is filtered and the filtrate is concentrated. The residue obtained is taken up in dichloromethane and washed with water, and the organic phase is dried and concentrated and then purified by chromatography on silica gel, using as eluant a cyclohexane/ethyl acetate mixture (60/40), to yield the expected compound.

reactant | sodium periodate | 20 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methyl 3-(6-{[(4-chlorophenyl)sulphonyl]amino}-3-vinyl-5,6,7,8-tetrahydro-1-naphthyl)propanoate | 23 mmol, 10 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC=2C=C(C=C(C2CC1)CCC(=O)OC)C=C | C22H24ClNO4S
solvent | 2-methyl-2-propanol | CC(C)(C)O | C4H10O
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | Methyl 3-(6-{[(4-chlorophenyl)sulphonyl]amino}-3-formyl-5,6,7,8-tetrahydro-1-naphthyl)propanoate | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC=2C=C(C=C(C2CC1)CCC(=O)OC)C=O | C21H22ClNO5S
